Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o female with PMHx of HTN presents referred from ___ with 
c/o intermittent chest pain x 1 month. Pain is in ___ 
chest, worse last night when lying flat after dinner. Today she 
awoke with pain as well. She presented to ___ and was referred 
to ___ where she was given sublingual nitro. This improved her 
pain, and she was chest pain free by the time of arrival to the 
ED. Upon questioning, she currently endorses only abdominal pain 
which she describes as periumbilical and sometimes radiating to 
the suprapubic area.  

 Denies SOB, cough, relation to food, fever/chills, no increased 
swelling.  

 In the ED, initial vitals: T 98.7 HR 90 BP 127/91 RR 18 100% RA 
 
 - Exam notable for: S3 gallop otherwise unremarkable  
 - Labs notable for: trop <0.01, Cr 0.7, lactate 1.9  
 - Imaging notable for: CXR with enlarged cardiac silhouette. No 
overt pulmonary edema is seen. Patchy right base opacity could 
relate to overlap of structures although consolidation due to 
pneumonia is not excluded in the appropriate clinical setting.  
 - Patient given: none  

 - Vitals prior to transfer: T 98 HR 77 BP 150/94 RR 15 100% RA  

 
On arrival to the floor, patient was interviewed with her son 
present. She denied any current chest pain but did complain of 
some chronic abdominal pain that appears to have improved 
somewhat with omeprazole. Regarding her chest pain, she 
described it as sharp and intermittent over the last few months. 
She indicates that it is usually substernal and sometimes L 
shoulder pain. She also says it is sometimes associated with L 
arm pain but that all of this pain can be elicited by movement 
or positional changes. Chest pain is also reproducible by 
pressing on her sternum. She does not particularly associate 
this pain with exertion and denies diaphoresis, n/v, or 
lightheadedness. She does say that the pain improved somewhat 
with nitro.
 
Past Medical History:
HTN - currently unmedicated x 3 months  
prediabetes (A1c 6.3%)  
?typhoid fever in the past  
chronic abdominal pain  
HOME MEDICATIONS:  
None (previously on omeprazole and amlodipine but discontinued) 
 
Social History:
___
Family History:
Unknown  
 
Physical Exam:
ADMISSION EXAM:
Vitals: T 98 153/90 HR 85 16 96 RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, JVP 
not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 1+ edema bilaterally  
Skin: Without rashes or lesions  
Neuro: A&Ox3. Grossly intact.

DISCHARGE EXAM:
Vitals: 98.4 121/82 80 18 97 RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, JVP 
not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 1+ edema bilaterally  
Skin: Without rashes or lesions  
Neuro: A&Ox3. Grossly intact. 
 
Pertinent Results:
========================
ADMISSION/DISCHARGE LABS
========================
___ 05:54PM BLOOD WBC-6.3 RBC-4.76 Hgb-12.8 Hct-41.7 MCV-88 
MCH-26.9 MCHC-30.7* RDW-13.2 RDWSD-42.6 Plt ___
___ 05:11AM BLOOD WBC-6.2 RBC-4.60 Hgb-12.7 Hct-40.2 MCV-87 
MCH-27.6 MCHC-31.6* RDW-13.4 RDWSD-42.9 Plt ___
___ 05:54PM BLOOD Neuts-56.2 ___ Monos-8.6 Eos-0.2* 
Baso-0.3 Im ___ AbsNeut-3.55 AbsLymp-2.17 AbsMono-0.54 
AbsEos-0.01* AbsBaso-0.02
___ 05:11AM BLOOD Plt ___
___ 05:54PM BLOOD Plt ___
___ 05:54PM BLOOD ___ PTT-26.9 ___
___ 05:11AM BLOOD Glucose-117* UreaN-15 Creat-0.8 Na-141 
K-4.2 Cl-101 HCO3-29 AnGap-15
___ 05:54PM BLOOD Glucose-111* UreaN-13 Creat-0.7 Na-141 
K-4.2 Cl-101 HCO3-27 AnGap-17
___ 05:54PM BLOOD ALT-8 AST-19 AlkPhos-92 TotBili-0.2
___ 05:11AM BLOOD cTropnT-<0.01
___ 01:14AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:59PM BLOOD cTropnT-<0.01
___ 05:54PM BLOOD Lipase-26
___ 05:11AM BLOOD Calcium-9.7 Phos-4.0 Mg-2.0
___ 05:54PM BLOOD Albumin-4.3
___ 05:59PM BLOOD Lactate-1.9

==============
IMAGING
==============
___ ECG:
Clinical indication for ECG: R07.9 - Chest pain, unspecified 
  
Sinus rhythm. Minor inferolateral T wave flattening. Compared to 
tracing #1  
R wave progression is fairly normal. 
TRACING #2 

___ CXR:
FINDINGS:  
  
Patchy right base opacity could be due to overlap of structures 
versus small 
consolidation.  No pleural effusion is seen.  There is no 
pneumothorax.  The 
cardiac silhouette is enlarged, with apparent enlargement of the 
left atrium.  
No overt pulmonary edema is seen.  Mediastinal contours 
unremarkable. 
  
IMPRESSION:  
  
Enlarged cardiac silhouette.  No overt pulmonary edema is seen. 
  
Patchy right base opacity could relate to overlap of structures 
although 
consolidation due to pneumonia is not excluded in the 
appropriate clinical 
setting. 

___ EXERCISE STRESS:
INTERPRETATION: This ___ year old woman with h/o HTN was referred 
to 
the lab for evaluation of chest pain. The patient exercised for 
9.25 
minutes of a Gervino protocol (~ ___ METS), representing an 
average 
exercise tolerance for her age. The test was stopped due to 
fatigue. 
No chest, neck, back, or arm discomforts were reported by the 
patient 
throughout the study. There were no significant ST segment 
changes 
throughout the study. The rhythm was sinus with rare/occasional, 

isolated VPBs and one ventricular couplet throughout the study. 
Resting mild diastolic hypertension with increases in systolic 
and 
diastolic blood pressure during exercise. Appropriate heart rate 

response to exercise. 
  
IMPRESSION: No anginal type symptoms or ischemic EKG changes to 
achieved workload. Resting diastolic hypertension with normal 
systolic 
and abnormal/increased diastolic pressure with exertion. Average 

exercise tolerance. 

 
Brief Hospital Course:
___ y/o ___ female with history of GERD, HTN who presents 
with chest pain. Patient reports several month history of sharp 
chest pain with radiation to her L shoulder/arm which is 
reproducible on palpation and worsens with positional changes. 
There was some concern upon admission as the pain reportedly 
improved with the administration of SL nitro. However, chest 
pain generally does not appear consistent with ischemia given no 
dyspnea, no exertional CP, no nausea or associated symptoms. EKG 
with nonspecific ST changes, STD in V4-V6, II-III. Troponins neg 
x3. She had an exercise stress test which was negative for 
ischemic changes on EKG and did not induce any anginal symptoms. 
She will be started on amlodipine 2.5 mg daily. She will also be 
discharged on pravastatin 20 mg QHS. She was discharge chest 
pain free and HDS.

TRANSITIONAL ISSUES:
MEDICATIONS STARTED: Pravastatin 20 mg QHS, amlodipine 2.5 mg 
daily
- Please follow up on patient's blood pressure at next PCP 
___. She was started on amlodipine due to hypertension during 
this admission.
- Patient with negative stress test as an inpatient. She can 
follow up with her PCP.
- Please check that patient is tolerating newly started 
pravastatin at next PCP visit
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1 
2.  Pravastatin 20 mg PO QPM 
RX *pravastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Possible Costochondritis

SECONDARY DIAGNOSES:
Hyptertension
Chronic abdominal pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to take care of you. You were admitted to the 
hospital because you were having chest pain. We did tests to 
make sure you were not having a heart attack or any signs of 
blockage in the blood vessels going to your heart. You had 
several tests done including an exercise stress test. These 
tests did not show any findings concerning for damage or 
blockage in your heart. We think your pain is more likely from 
inflammation in your ribs and shoulder. You will be starting 
amlodipine, a medication for your high blood pressure, and 
pravastatin, a medication to lower your cholesterol.

When you leave the hospital, it is important to take your 
medications as directed. You should make an appointment and 
follow up with your PCP in the next couple of weeks.

All our best,
Your ___ Care Team
 
Followup Instructions:
___